US08809451B2
Under a nitrogen atmosphere, 30.0 g (95.0 mmol) of 1,3,5-tribromobenzene and 400 mL of diethyl ether were placed in a 500-mL glass flask and cooled to −78° C. Further, 60 ml (96.0 mmol) of 1.6M n-butyl lithium hexane solution was dropped into the glass flask at −78° C. over 1 hour. The resulting solution was subjected to aging at −78° C. for 1 hour. The lithiation of the raw material was confirmed by gas chromatography. After that, 16.6 g (100.0 mmol) of hexafluoroacetone was charged into the solution at −78° C. and stirred for 1 hour. After the completion of the stirring, the reacted solution was separated into an organic layer and an aqueous layer by the addition of 400 mL of 2N hydrochloric acid. The aqueous layer was extracted with 100 mL of isopropyl ether. The extracted organic layers were combined, dried with anhydrous magnesium sulfate, concentrated by an evaporator, and then, subjected to distillation. With this, 23 g of 1-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-3,5-dibromobenzene was obtained. The yield was 60%.

reactant | 1,3,5-tribromobenzene | 95.0 mmol, 30.0 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | n-butyl lithium hexane | 96.0 mmol, 1.6M, 60 ml | CCCCCC.C(CCC)[Li]
reactant | hexafluoroacetone | 100.0 mmol, 16.6 g | FC(C(=O)C(F)(F)F)(F)F | C3F6O
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
product | 1-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-3,5-dibromobenzene | 23 g, yield was 60% | FC(C(C(F)(F)F)(O)C1=CC(=CC(=C1)Br)Br)(F)F | C9H4Br2F6O
